US06818644B1
9-{4-[4-(5-Chloro-2-methoxy-phenyl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide
Prepared analogously to Example 2 b from 1-(5-chloro-2-methoxy-phenyl)-piperazine hydrochloride and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide.

reactant | 1-(5-chloro-2-methoxy-phenyl)-piperazine hydrochloride | Cl.ClC=1C=CC(=C(C1)N1CCNCC1)OC
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
product | 9-{4-[4-(5-Chloro-2-methoxy-phenyl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=C(C=CC(=C1)Cl)OC)(F)F | C31H33ClF3N3O2
